US06569886B2
Preparation of 1-(2,6-dichloro-4-trifluoromethylphenyl)-3-cyano-4-chlorodifluoromethylsulfenyl-5-hydroxypyrazole.
To the solution of 1-(2,6-dichloro-4-trifluoromethylphenyl)-3-cyano-5-hydroxypyrazole (12.0 g, 37.3 mmol.) and pyridine (3.25 g, 41.0 mmol) in dichloromethane at −50-−60 C. was added chlorodifluoromethanesulfenyl chloride (8.1 g, 46.6 mmol). The resulting solution was gradually warmed up to room temperature. After 20 hr, the organic layer was washed five times with water. It was then washed with brine and dried (Na2SO4) to provide an oil. Upon chromatographic purification of the oil , a total of 11.6 g (26.4 mmol., 71% yield) of the desired product with 97% HPLC puriety was isolated. F-NMR: −30.05 ppm (CCIF2), −63.80 ppm (ArCF3).

reactant | 1-(2,6-dichloro-4-trifluoromethylphenyl)-3-cyano-5-hydroxypyrazole | 37.3 mmol, 12.0 g | ClC1=C(C(=CC(=C1)C(F)(F)F)Cl)N1N=C(C=C1O)C#N | C11H4Cl2F3N3O
reactant | pyridine | 41.0 mmol, 3.25 g | N1=CC=CC=C1 | C5H5N
reactant | chlorodifluoromethanesulfenyl chloride | 46.6 mmol, 8.1 g | ClC(SCl)(F)F | CCl2F2S
reactant | dichloromethane | ClCCl | CH2Cl2
product | 1-(2,6-dichloro-4-trifluoromethylphenyl)-3-cyano-4-chlorodifluoromethylsulfenyl-5-hydroxypyrazole | 71% yield | ClC1=C(C(=CC(=C1)C(F)(F)F)Cl)N1N(C(C(=C1O)Cl)C#N)SC(F)F | C12H5Cl3F5N3OS
